US07875645B2
b) (E)-[1-(2,6-Diethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine
To a solution of 16.0 g (61 mmol) [1-(2,6-dimethoxy-phenyl)-meth-(E)-ylidene]-(1-isopropyl-2-methyl-propyl)-amine in 80 ml dry THF cooled to −40° C. were added 364 ml of a 0.5M solution of ethyl lithium in cyclohexane/benzene drop-wise to keep temperature below −20° C. Then the mixture was stirred at −20° C. for further 30 min and the reaction quenched by addition of water. The aqueous phase was extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated: 15.6 g (E)-[1-(2,6-diethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine as colourless liquid: MS (EI): 259.2 (M+.), 216.3 ((M-(CH3)2CH)+.)), 160.1 (((M-(((CH3)2CH)2CH))+.), 100%).

reactant | [1-(2,6-dimethoxy-phenyl)-meth-(E)-ylidene]-(1-isopropyl-2-methyl-propyl)-amine | 61 mmol, 16.0 g | COC1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C16H25NO2
reactant | ethyl lithium | C(C)[Li]
reactant | THF | 80 ml | C1CCOC1 | C4H8O
solvent | cyclohexane benzene | C1CCCCC1.C1=CC=CC=C1
product | (E)-[1-(2,6-Diethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | C(C)C1=C(C(=CC=C1)CC)\C=N\C(C(C)C)C(C)C | C18H29N
